US05523421
By following the procedure of Example 1 by employing 1.0 g(6.5 mmole) of 2,3-dihydroxybenzoic acid, 0.26 g (8.5 mmole) of sodium hydroxide and 0.92 g(7.6 mmole) of chlorokojic acid, there was obtained 0.8 g(50.2%) of 2-(2,3-dihydroxybenzoyl)oxymethyl-5-hydroxy-4H-pyran-4-one as a solid.

reactant | 2,3-dihydroxybenzoic acid | 6.5 mmole, 1.0 g | OC1=C(C(=O)O)C=CC=C1O | C7H6O4
reactant | sodium hydroxide | 8.5 mmole, 0.26 g | [OH-].[Na+]
reactant | chlorokojic acid | 7.6 mmole, 0.92 g | C1=C(OC=C(C1=O)O)CCl | C6H5ClO3
product | 2-(2,3-dihydroxybenzoyl)oxymethyl-5-hydroxy-4H-pyran-4-one | 0.8 g, 50.2% | OC1=C(C(=O)OCC=2OC=C(C(C2)=O)O)C=CC=C1O | C13H10O7
